Simulating a NAND2 for optimal high-to-low transition

.lib '/home/ff/ee241/synopsys-32nm/hspice/saed32nm.lib' TT

* Inverter Subcircuit

.subckt inverter in out vdd gnd (pmos_width=121n, size=1)
    * MOSFET instantiation: x<name> <drain> <gate> <source> <body> <model> <parameter list>
    x1 out in gnd gnd n105 (w=100n*size l=32n)
    x2 out in vdd vdd p105 (w=pmos_width*size l=32n)
.ends

* NAND2 Subcircuit
.subckt nand2 in1 in2 out vdd gnd (nmos_width=100n, pmos_width=121n, size=1)
    x1 out in1 vdd vdd p105 (w=pmos_width*size l=32n)
    x2 out in2 vdd vdd p105 (w=pmos_width*size l=32n)
    x3 out in1 vstack vstack n105 (w=nmos_width*size l=32n)
    x4 vstack in2 gnd gnd n105 (w=nmos_width*size l=32n)
.ends

* Test Circuit
.param nmos_width_param=100n
vdd vdd gnd 1.05
vin vin gnd pwl(0 1.05 10p 1.05 20p 0)

x1 vin vnandin vdd gnd inverter (size=1)
xdut vdd vnandin vnandout vdd gnd nand2 (nmos_width=nmos_width_param, size=4)
x2 vnandout v2out vdd gnd inverter (size=16)
x3 v2out v3out vdd gnd inverter (size=64)

* Measurements
* We want to measure the high-to-low transition of the NAND2 gate to measure
* the strength of the pull-down network. We want it to pull low as fast as an inverter.

.measure tran delay_h_to_l trig v(vnandin) val=1.05/2 rise=1 targ v(vnandout) val=1.05/2 fall=1

* Analyses
.op
.tran 10f 200p START=0 SWEEP nmos_width_param 100n 200n 1n

.option post=2 nomod
.option accurate=1
.option numdgt=6
.option measdgt=6
.option delmax=10f
.end
